US04272437
Methyl 2-azido-4-cyanobutyrate
To a cold (10° C.) suspension of potassium cyanide (1.5 g, 23 mmol) in dry DMSO (25 ml) was added methyl 2-azido-4-iodobutyrate (4.0 g, 15 mmol) and the mixture stirred at 10° C. for 10 min and at room temperature for 45 min. The reaction mixture was poured into cold water (200 ml) and the solution was extracted with chloroform (4×80 ml). The chloroform extract was washed with water (4×50 ml), dried and evaporated to give a syrup (2.0 g) which on tlc (silica, 10% ether-benzene) showed a major spot of Rf 0.4 and some impurities (Rf 0, 0.67, and 1.0). The product was purified by chromatography on a silica column (20 cm×2.9 cm 1-D) using 10% ether in benzene as eluent to give 1.1 g (44%) of title compound as a syrup; ir (neat) νmax : 2100, 1745 cm-1 ; 1Hmr (CDCl3) δ: 2.17 (m, 2H, --CH2 --), 2.5 (m, 2H, CH2CN), 3.83 (s, 3H, OCH3) and 4.13 ppm (q, J=9, 6 Hz, 1H, CHN3). Anal. calcd for C6H8N4O2 : C 42.84, H 4.89, N 33.31; found: C 42.76, H 4.72, N 33.16.

reactant | potassium cyanide | 23 mmol, 1.5 g | [C-]#N.[K+]
reactant | methyl 2-azido-4-iodobutyrate | 15 mmol, 4.0 g | N(=[N+]=[N-])C(C(=O)OC)CCI | C5H8IN3O2
reactant | water | 200 ml | O | H2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | Methyl 2-azido-4-cyanobutyrate | 2.0 g | N(=[N+]=[N-])C(C(=O)OC)CCC#N | C6H8N4O2
